US06498169B1
Synthesis of 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone
To a solution of 1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone ethylene ketal (19.0 g) in THF (200 mL) was added 1 M hydrochloric acid (200 mL). The mixture was stirred at 90° C. overnight, then neutralized with 2 M sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated. The residual oil was applied to a column of silica gel using chloroform-methanol (40:1) as an eluent. Fractions containing the product were collected and evaporated to give the title compound.

reactant | 1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone ethylene ketal | 19.0 g | C1COC2(CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)O1 | C22H28N2O5
reactant | hydrochloric acid | 1 M, 200 mL | Cl | ClH
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)=O | C20H24N2O4
